US07576098B2
Triethylsilane (3.1 mL, 19.5 mmol) was added dropwise to a solution of 1-(4-fluoro-2-hydroxyphenyl)ethanone (1 g, 6.5 mmol) in TFA (13 mL). The mixture was stirred at ambient temperature and concentrated. Purification by flash chromatography (19:1, hexanes/EtOAc) afforded 600 mg of 2-ethyl-5-fluorophenol as a clear oil. Et3N (1.2 mL, 8.6 mmol) and TBSCl (715 mg, 4.7 mmol) were added to a solution of intermediate 386.2 (600 mg, 4.3 mmol) in CH2Cl2 and the solution was stirred overnight. Water was added to the mixture and it was extracted with CH2Cl2. The organics were combined, washed with brine, dried (Na2SO4) and concentrated. Purification by flash chromatography (hexanes) yielded 768 mg of Intermediate 386.3 as a clear oil. 1H NMR (400 MHz, CDCl3) δ ppm 0.23 (s, 6H) 1.01 (s, 9H) 1.15 (t, J=7.46 Hz, 3H) 2.55 (q, J=7.58 Hz, 2H) 6.49 (dd, J=10.52, 2.45 Hz, 1H) 6.59 (dt, J=8.38, 2.57 Hz, 1H) 7.01-7.08 (m, 1H).

reactant | Triethylsilane | 19.5 mmol, 3.1 mL | C(C)[SiH](CC)CC | C6H16Si
reactant | 1-(4-fluoro-2-hydroxyphenyl)ethanone | 6.5 mmol, 1 g | FC1=CC(=C(C=C1)C(C)=O)O | C8H7FO2
solvent | TFA | 13 mL | C(=O)(C(F)(F)F)O | C2HF3O2
product | 2-ethyl-5-fluorophenol | 600 mg | C(C)C1=C(C=C(C=C1)F)O | C8H9FO
